US08426449B2
Step 1: {3-[2-({Ethyl-[4-(methyl-m-tolyl-amino)-benzenesulfonyl]-amino}-methyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester
To [3-(2-{[ethyl-(4-m-tolylamino-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (0.080 g, 0.13 mmol) in THF (2 mL) under N2 was added sodium hydride (60% in mineral oil; 0.016 g, 0.39 mmol), and the mixture was stirred for 30 minutes at room temperature. Iodomethane (0.02 mL, 0.39 mmol) was added, and the reaction was stirred at room temperature for 4 hours. Analytical LCMS indicated that some starting material remained, so additional sodium hydride (60% in mineral oil; 0.008 g, 0.20 mmol)) and iodomethane (0.01 mL, 0.20=01) was added, and the reaction was stirred for 30 minutes and then taken directly to the hydrolysis step as a solution in THF.

reactant | [3-(2-{[ethyl-(4-m-tolylamino-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 0.13 mmol, 0.080 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(S(=O)(=O)C1=CC=C(C=C1)NC=1C=C(C=CC1)C)CC)=O | C32H31F3N2O5S
reactant | sodium hydride | 0.39 mmol, 0.016 g | [H-].[Na+]
reactant | Iodomethane | 0.39 mmol, 0.02 mL | IC | CH3I
reactant | sodium hydride | 0.20 mmol, 0.008 g | [H-].[Na+]
reactant | iodomethane | 0.01 mL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {3-[2-({Ethyl-[4-(methyl-m-tolyl-amino)-benzenesulfonyl]-amino}-methyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(S(=O)(=O)C1=CC=C(C=C1)N(C=1C=C(C=CC1)C)C)CC)=O | C33H33F3N2O5S
